Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo M with PMH of CAD s/p 4V CABG and asthma and admission in 
___ at ___ for colitis who presents with epigastric pain, 
nausea, and vomiting.  
Patient reports 4 weeks of epigastric pain worsened by PO 
intake. Patient has been taking omeprazole 40 mg BID with 
limited relief. Nausea and vomiting after PO intake for the last 
several days and patient reports feeling orthostatic from his GI 
losses and decreased PO intake. Because of these symptoms, he 
presented to ED today.  
Of note during his ___ hospitalization, he had EGD and ___ 
that only showed gastritis. Though he is not aware of any 
previous H. Pylori testing and he has not taken triple therapy 
before.  
Pt has RUE pain that is burning. Has had it since his suicide 
attempt in ___ when he laid on that arm for hours when he was 
done. Has had mild contractions in his fingers since then. He 
wants to try to get off the Vicodin as he does cause him 
constipation. He says he has asked about Gabapentin in the past 
but has never tried it.  

In the ED, initial vital signs were 97.2, 68, 139/99, 18, 97% 
RA. Labs were remarkable for WBC 11.2. EKG with new T wave 
inversion isolated in V2. Trop <0.01. CXR and CT abdomen without 
any acute findings. Patient was given GI cocktail, Zofran, 
morphine, and 2 L IVF without improvement in his symptoms. He 
was given albuterol and ipratropium nebs for wheezing. Because 
of lack of improvement and inability to tolerate PO intake, 
patient was admitted to Medicine for further management.  

 
Past Medical History:
BENIGN POSITIONAL VERTIGO  
CORONARY ARTERY DISEASE s/p CABGx4 ___  
DEPRESSION  
GRAVES' DISEASE  
HYPERLIPIDEMIA  
HYPERTENSION  
MYOCARDIAL INFARCTION  
injury to right brachial plexus in ___, with residual 
paralysis of right upper limb  
Osteoarthritis  
Asthma  
Cluster headaches  
Prior Etoh usage  
S/P RIGHT HIP ARTHROPLASTY  
ASTHMA   
GLAUCOMA  
PROSTHESIS SHOULDER AND HIP  
PSORIASIS  
SHOULDER IMPINGEMENT SYNDROME RIGHT  
THYROTOXICOSIS-AF  

 
Social History:
___
Family History:
Premature cardiac disease in father, mother, and brother  
Father: PUD  

 
Physical Exam:
ON ADMISSION
Vitals: 98.0 120/66 59 18 93%RA  
General: alert and awake, in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes/rales/rhonchi  
CV: RRR, normal S1/S2, no MRG  
Abdomen: soft, non-distended, moderate tenderness to palpation 
isolated in the RUQ, no rebound or guarding. no 
hepatosplenomegaly  
GU: No Foley  
Ext: Warm, well-perfused, no cyanosis/clubbing/edema, 2+ DP 
pulses. Right upper arm with mild contraction of ___ digits. 
 
Neuro: AAOx3, CN II-XII grossly intact, gait normal  

ON DISCHARGE
Vitals- Tc 97.5, Tm 98.3, (92-135)/(50-73), 45-59, ___, 93-94% 
RA  
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated
Lungs- Diffuse expiratory wheezes bilaterally, no rales or 
rhonchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-distended, normoactive bowel sounds present, 
tender to palpation over LUQ, no rebound tenderness or guarding, 
no organomegaly or masses   
Ext- warm, well perfused, no clubbing, cyanosis, or edema 
Neuro- EOMI, tongue midline, face symmetric, motor function 
grossly normal  

 
Pertinent Results:
On Admission:
___ 03:30PM BLOOD WBC-11.2*# RBC-4.89 Hgb-15.6 Hct-45.2 
MCV-92# MCH-31.9 MCHC-34.5 RDW-11.8 RDWSD-39.7 Plt ___
___ 03:30PM BLOOD Neuts-72.7* ___ Monos-6.6 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.19* AbsLymp-2.21 
AbsMono-0.74 AbsEos-0.03* AbsBaso-0.03
___ 03:30PM BLOOD ___ PTT-27.6 ___
___ 03:30PM BLOOD Glucose-96 UreaN-18 Creat-0.9 Na-140 
K-4.2 Cl-102 HCO3-27 AnGap-15
___ 03:30PM BLOOD ALT-22 AST-21 CK(CPK)-96 AlkPhos-68 
TotBili-0.7
___ 03:30PM BLOOD Lipase-32
___ 03:30PM BLOOD CK-MB-3
___ 03:30PM BLOOD Albumin-4.7 Calcium-9.9 Phos-2.1* Mg-1.8
___ 03:30PM BLOOD TSH-2.7
___ 03:49PM BLOOD Lactate-1.0

On Discharge:
___ 06:41AM BLOOD WBC-7.7 RBC-4.14* Hgb-13.3* Hct-39.9* 
MCV-96 MCH-32.1* MCHC-33.3 RDW-12.0 RDWSD-41.8 Plt ___
___ 06:41AM BLOOD Plt ___
___ 06:41AM BLOOD Glucose-65* UreaN-13 Creat-0.9 Na-141 
K-4.4 Cl-105 HCO3-25 AnGap-15
___ 06:41AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.9

Pertinent Labs:
___ 6:41 am SEROLOGY/BLOOD      CHEM # ___ ___. 

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

Imaging/Studies:
___ CT A/P with Contrast
1. No evidence of colitis, pancreatitis, our other acute 
intra-abdominal 
process. 
2. Chronic findings, including one liver and multiple renal 
hypodensities, too small for further characterization. 
 
Brief Hospital Course:
___ is a ___ year old M with PMH of CAD s/p 4V CABG 
and asthma and recent admission for colitis who presented with 4 
weeks of epigastric pain, nausea, and vomiting.

Active Issues: 

# Abdominal Pain
Patient has past admission to ___ in ___ for similar symptoms, 
and workup was unrevealing. Given his history of colitis, 
gastritis and PUD were suspected. Infectious etiologies such as 
gastroenteritis were deemed less likely as he had been 
symptomatic for 4 weeks and had no risk factors such as travel, 
camping, or new foods. His lipase and LFTs were normal, so 
pancreatitis, hepatitis, or biliary pathology were thought to be 
unlikely. In addition, his abdominal CT was unrevealing. 
Finally, 2 serial troponins were <.01, and there was isolated T 
wave inversion in V2, so cardiac etiology not likely. He had no 
electrolyte abnormalities or weight loss, so he had been able to 
maintain adequate nutritional intake as an outpatient. He 
reported no known history of peptic ulcers, and H. pylori IgG 
was negative. He received Maalox, diphenhydramine, and lidocaine 
as well as Tylenol PRN pain, which helped alleviate his 
symptoms. He was continued on omperazole 40mg BID and placed on 
a full liquid diet, which he was able to advance slowly, with 
LUQ pain after eating but no vomiting.

# Chronic right upper extremity pain
This pain was thought to be neurogenic as patient laid on that 
arm for hours during his ___ suicide attempt. He had been 
asking his PCP to take him off of narcotics and agreed to 
transition to gabapentin. His hydrocodone-acetaminophen was 
discontinued and he was started on gabapentin 100mg TID, to be 
uptitrated as an outpatient.  

Chronic Issues:

# Coronary Artery Disease
s/p 4v CABG in ___. His EKG was unconcerning and there was no 
rise is serial troponin levels x 2. He continued on ASA 81mg 
daily and metoprolol 100mg BID. He had said upon admission that 
he was worried about taking ASA because he thought it might harm 
his stomach, but was reassured that he should stay on this 
medication.  

# Asthma
He had wheezing in the ED, but resolved after nebs--his wheezing 
was present once he arrived on the floor, for which he received 
albuterol nebs.  

# Depression/Anxiety
History of suicide attempt in ___. No SI. He was continued on 
sertraline, trazodone, and clonazepam BID PRN. He reported being 
in a depressed mood.  

Transitional Issues:

# Follow up on H Pylori serology (lab result pending at 
discharge). 
# Consider food allergy testing, although he did not report 
symptoms with one specific food.
# Consider GI referral as an outpatient, as he has had similar 
symptoms in the past, including an admission in ___, 
without clear cause. 
# Patient wanted to stop Vicodin. He was started instead on 
low-dose gabapentin for right arm pain. Please ___ 
response as an outpatient, consider uptitration. 
# Unclear why patient not on aspirin with history of coronary 
artery disease. Consider starting if indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
2. ClonazePAM 2 mg PO BID:PRN anxiety 
3. HYDROcodone-acetaminophen ___ mg oral QID:PRN pain 
4. Metoprolol Tartrate 100 mg PO BID 
5. Omeprazole 40 mg PO BID 
6. Sertraline 200 mg PO DAILY 
7. TraZODone 200 mg PO QHS 

 
Discharge Medications:
1. ClonazePAM 2 mg PO BID:PRN anxiety 
2. Metoprolol Tartrate 100 mg PO BID 
3. Omeprazole 40 mg PO BID 
4. Sertraline 200 mg PO DAILY 
5. TraZODone 200 mg PO QHS 
6. Gabapentin 100 mg PO TID 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times per day 
Disp #*90 Capsule Refills:*0
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
8. Lidocaine Viscous 2% 15 mL PO QID:PRN abdominal pain 
RX *lidocaine HCl 2 % 15 mL by mouth four times per day 
Refills:*1
9. Aluminum-Magnesium Hydrox.-Simethicone 15 mL PO QID:PRN 
abdominal pain 
RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL 15 ML by mouth four times per day Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Abdominal pain, nausea, vomiting

Secondary
Asthma
CAD s/p CABG

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted for abdominal pain, nausea and vomiting. You 
received medications to help with these symptoms. Meanwhile, 
your blood tests and vital signs (like blood pressure) showed 
that you have been receiving adequate amounts of fluids and 
nutrition through the foods and liquids you drink. You had a CT 
scan which showed no cause for your symptoms. In addition, we 
were reassured that you were able to eat lunch without any 
problems. Therefore, it is safe for you to return home and you 
can complete other tests or procedures as an outpatient.  

It is likely that your pain is from inflammation in the stomach, 
called gastritis. This can be treated with medications you are 
on (omeprazole). Your symptoms could also be from ulcers in the 
stomach. We tested you for an bacteria called H. pylori which 
can cause ulcers, but the blood tests will not be back until the 
end of the week. We and your primary doctor can ___ on 
this. This can be treated (if you have it) with a short course 
of antibiotics. 

We recommend continuing on the Maalox and liquid lidocaine if 
needed to control your symptoms. Please follow up with your 
primary care doctor after discharge. 

We wish you a safe and healthy return home.

Sincerely,
Your ___ Team
 
Followup Instructions:
___